US04554111
A solution of α-hydroxy-β-chloroethylphosphinic acid (2.9 g) and 1-butanol (10.0 g) in benzene (30 ml) was heated for 3 hours with removal of water through a Dean-Stark apparatus. The same work-up as in Example 6 gave 2.60 g (64.8%) of n-butyl α-hydroxy-β-chloroethylphosphinate (Compound No. 82).

reactant | α-hydroxy-β-chloroethylphosphinic acid | 2.9 g | OC(CCl)P(O)=O | C2H6ClO3P
reactant | 1-butanol | 10.0 g | C(CCC)O | C4H10O
reactant | water | O | H2O
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | n-butyl α-hydroxy-β-chloroethylphosphinate | 2.60 g, 64.8% | OC(CCl)P(OCCCC)=O | C6H14ClO3P
